US08431575B2
A solution of cis-4-azidomethyl-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (1.4 mmol, 360 mg) in dichloromethane (1 mL) and 4N HCl (2 mL) was stirred at room temperature for 2 h. Solvent was evaporated to give cis-4-azidomethyl-piperidin-3-ol and was used without further purification.

reactant | cis-4-azidomethyl-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 1.4 mmol, 360 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)CN=[N+]=[N-])O | C11H20N4O3
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | HCl | 4N, 2 mL | Cl | ClH
product | cis-4-azidomethyl-piperidin-3-ol | N(=[N+]=[N-])C[C@@H]1[C@@H](CNCC1)O | C6H12N4O
